US09056844B2
Step 2: Di-tert-butyl (1S,2S,5R,6S)-2-[(tert-butoxycarbonyl)amino]bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylate
Triethylamine (735 mL, 5.30 mol) is added dropwise at 0° C. under N2 over 40 minutes to a solution of di-tert-butyl(2S,4S)-2-[(tert-butoxycarbonyl)amino]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate (995.4 g, 2.41 mol) in dry tetrahydrofuran (8.4 L) Methanesulfonyl chloride (373 mL, 4.82 mol) is added at 0° C. over 50 minutes. The reaction is warmed to 23° C. After 3 hours, the reaction if filtered to remove triethylamine hydrochloride salt. Wash the filter cake with dry tetrahydrofuran (2×2 L). The filtrate (13 L) is split into two equal parts. To one half of filtrate, add 1M potassium tert-butoxide in tetrahydrofuran (3.6 L, 3.6 mol) dropwise to the solution obtained in previous step (Crude V=6.5 L, 1.2 mol) at 15° C. over 2 hours 15 minutes then allow to warm to 23° C. After 2 hours 30 minutes the reaction is quenched by pouring into 10% aqueous acetic acid (950 mL). Separate the layers and extract the aqueous layer with ethyl acetate (1.7 L). The organic layers are combined and concentrated in vacuo to obtain a solid which is dissolved in acetone (1.45 L) and added to water (7.3 L). Stir the resulting suspension overnight at 23° C. Filter off the precipitate, wash with water (2×1 L), and dry in the vacuum oven at 40° C. to obtain the title compound (450.67 g, yield 95%). MS (m/z): 418 (M+23).

reactant | Triethylamine | 5.30 mol, 735 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl(2S,4S)-2-[(tert-butoxycarbonyl)amino]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 2.41 mol, 995.4 g | C(C)(C)(C)OC(=O)N[C@@]1(C2C(C2[C@H](C1)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H35NO7
reactant | tetrahydrofuran | 4.82 mol, 8.4 L | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 1M | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 3.6 mol, 3.6 L | O1CCCC1 | C4H8O
solvent | acetone | 1.45 L | CC(=O)C | C3H6O
solvent | water | 7.3 L | O | H2O
product | Di-tert-butyl (1S,2S,5R,6S)-2-[(tert-butoxycarbonyl)amino]bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylate | 450.67 g, yield 95% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H33NO6
